US06492403B1
176 mg (0.712 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was reacted with 2-bromo-3′,4′-dichloroacetophenone (0.854 mmol; 330 mg) in a manner similar to Example 22, step (a) to afford 270 mg (91% yield) of methyl 4-[4-(3,4-dichlorophenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.712 mmol, 176 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-3′,4′-dichloroacetophenone | 0.854 mmol, 330 mg | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
product | methyl 4-[4-(3,4-dichlorophenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 270 mg, 91% yield | ClC=1C=C(C=CC1Cl)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C16H11Cl2NOS3
